US07781443B2
(2R*,4S*)-4-Benzyloxycarbonylamino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (5.83 g) is dissolved in a mixture solvent of ethanol (60 ml) and tetrahydrofuran (60 ml), then thereto is added 10% palladium/carbon (500 mg), and the mixture is stirred at room temperature under hydrogen for 7 hours. The catalyst is removed by filtration, the filtrate is concentrated under reduced pressure to give (2R*,4S*)-4-amino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (3.85 g). MS (m/z): 266 [M+H]+

reactant | (2R*,4S*)-4-Benzyloxycarbonylamino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 5.83 g | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC(=O)OCC1=CC=CC=C1)C | C21H25N3O5
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | palladium/carbon | 500 mg | [Pd] | Pd
product | (2R*,4S*)-4-amino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 3.85 g | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)N)C | C13H19N3O3
